US07960552B2
Cesium carbonate (1.96 g, 6.03 mmol) was added to 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenol (1.26 g, 5.74 mmol) and 4-(chloromethyl)-3-(2,6-dichlorophenyl)-5-(1-methylethyl)isoxazole (1.75 g, 5.74 mmol) in N,N-dimethylformamide (57 mL) at room temperature. The resulting suspension was heated for sixty-nine hours at 60° C. The reaction was cooled and concentrated to remove the N,N-dimethylformamide, then water was added and the reaction mixture was extracted with diethyl ether. The organic layer was dried over anhydrous magnesium sulfate, then filtered and concentrated. The residue was purified by silica gel chromatography eluting with 1:6 ethyl acetate:hexanes to give 2.24 g (80%) of 3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-({[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]oxy}methyl)isoxazole as an solid. 1H NMR (400 MHz, d6-DMSO): δ 7.62-7.59 (m, 2H), 7.55-7.48 (m, 3H), 6.76 (d, J=9 Hz, 2H), 4.82 (s, 2H), 3.44 (septet, J=7 Hz, 1H), 1.31 (d, J=7 Hz, 6H), 1.24 (s, 12H). ESI-LCMS m/z 488 (M+H)+.

reactant | Cesium carbonate | 6.03 mmol, 1.96 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenol | 5.74 mmol, 1.26 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)O)C | C12H17BO3
reactant | 4-(chloromethyl)-3-(2,6-dichlorophenyl)-5-(1-methylethyl)isoxazole | 5.74 mmol, 1.75 g | ClCC=1C(=NOC1C(C)C)C1=C(C=CC=C1Cl)Cl | C13H12Cl3NO
solvent | N,N-dimethylformamide | 57 mL | CN(C=O)C | C3H7NO
product | 3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-({[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]oxy}methyl)isoxazole | 2.24 g, 80% | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C(C)C | C25H28BCl2NO4
